US09024018B2
3-Methyl-4-oxo-N-(2-oxo-2-phenylethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroiodide
Using the general procedure, the title compound was synthesized from methyl 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide and aminoacetophenone, using a reaction time for the amidine formation of 3.5 hours. Yield 34%. δH (DMSO-d6): 9.69 (2H, m), 9.51 (1H, bs), 9.22 (1H, s), 8.07-8.05 (2H, m), 7.78-7.73 (1H, m), 7.65-7.61 (2H, m), 5.24 (2H, d, J=6.0), 4.06 (3H, s).

reactant | methyl 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide | I.CN1N=NC=2N(C1=O)C=NC2C(=N)SC
reactant | aminoacetophenone | NCC(=O)C1=CC=CC=C1 | C8H9NO
product | 3-Methyl-4-oxo-N-(2-oxo-2-phenylethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroiodide | Yield 34% | I.CN1N=NC=2N(C1=O)C=NC2C(NCC(C2=CC=CC=C2)=O)=N | InChI=1S/C14H13N7O2.HI/c1-20-14(23)21-8-17-11(13(21)18-19-20)12(15)16-7-10(22)9-5-3-2-4-6-9;/h2-6,8H,7H2,1H3,(H2,15,16);1H
